US07378418B2
251B. Preparation of 2-(4-(Isoxazol-3-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (0.27 g, 0.834 mmol), prepared as described in Example 244, in DMF (4 mL), potassium carbonate (0.23 g, 1.67 mmol) and 3-(4-(bromomethyl)phenyl)isoxazole (0.248 g, 1.04 mmol) were added. The resulting mixture was heated to 65° C. After 2 h, the reaction mixture was then cooled to RT and diluted with EtOAc (200 mL). The resultant solution was then washed with water and saturated aqueous NaCl. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography eluting with hexanes/EtOAc to give the title compound, 2-(4-(isoxazol-3-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, as a light yellow solid. HPLC RT: 2.60 min; 1H NMR (CDCl3): δ 8.64 (d, J=1.1 Hz, 1H), 8.63 (d, J=1.7 Hz, 1H), 8.45 (d, J=1.7 Hz, 1H), 8.20 (s, 1H), 7.80 (d, J=8.2 Hz, 2H), 7.50 (d, J=8.2 Hz, 2H), 7.34 (m, 2H), 7.23 (m, 2H), 7.10 (m, 2H), 6.65 (d, J=2.2 Hz, 1H), 5.26 (s, 2H).

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.834 mmol, 0.27 g | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10ClN5O
reactant | potassium carbonate | 1.67 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-(bromomethyl)phenyl)isoxazole | 1.04 mmol, 0.248 g | BrCC1=CC=C(C=C1)C1=NOC=C1 | C10H8BrNO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-(4-(isoxazol-3-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | O1N=C(C=C1)C1=CC=C(CN2N=C3N(N=CC(=C3C3=CC=NC=C3)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C26H17ClN6O2
